US05155100
(S)-N-[2-(Diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid (100 mg, 0.18 mmol) is dissolved in acetonitrile (10 mL) containing 5% 1N HCl. The mixture is refluxed for 3 hours. The precipitate is filtered and triturated with aqueous methanol to yield (S)-N-[2-(monophenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid as a monohydrate, m.p. 222°-223°.

reactant | (S)-N-[2-(Diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | 0.18 mmol, 100 mg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H31N2O6P
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-N-[2-(monophenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | C1(=CC=CC=C1)OP(=O)(O)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H27N2O6P
